US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2-H-3-benzazepine-1,2-dione-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxyphenyl]-ethyl)-amino]-propane hydrochloride
1.98 gm (4.0 mmols) of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride were suspended in 50 ml of acetic anhydride; the suspension was mixed with 2.5 gm of potassium permanganate, and the mixture was stirred for 20 minutes at 20° C. The reaction mixture was poured into ice water and made alkaline with concentrated ammonia. The precipitated manganese dioxide was suction-filtered off, and the filtrate was extracted several times with methylene chloride. The extract was dried over magnesium sulfate, evaporated in vacuo, and the residue was purified on a silica gel column with methylene chloride +1% of ethanol as the eluant. The product thus obtained was dissolved in acetone, and the hydrochloride was precipitated with ethereal hydrochloric acid.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride | 4.0 mmols, 1.98 gm | Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC
reactant | potassium permanganate | 2.5 gm | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | ammonia | N | H3N
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetone | CC(=O)C | C3H6O
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2-H-3-benzazepine-1,2-dione-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxyphenyl]-ethyl)-amino]-propane hydrochloride | Cl.COC1=CC2=C(C(C(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)=O)C=C1OC | InChI=1S/C26H34N2O6.ClH/c1-27(13-9-18-7-8-21(31-2)22(15-18)32-3)11-6-12-28-14-10-19-16-23(33-4)24(34-5)17-20(19)25(29)26(28)30;/h7-8,15-17H,6,9-14H2,1-5H3;1H
